US07259266B2
Step 1. Preparation of 2-hydroxy-5-iodobenzaldehyde
To the mixture of 20 g (91 mmol) of 4-iodophenol and 25.1 g (264 mmol) anhydrous magnesium dichloride in 455 mL of anhydrous acetonitrile was added triethylamine and paraformaldehyde. The mixture was heated to reflux for 4 h, allowed to cool to rt and treated with 500 mL of 5% HCl. The solution was extracted three times with EtOAc. The combined organic extracts were washed with brine (3×) and dried over anhydrous magnesium sulfate. The dried organic solution was evaporated to afford an oil, which was purified by silica gel chromatography with EtOAc/hexane (2:8). Concentration of the desired fractions afforded 15 g (66%) of a yellow solid, which was used directly in the next step without further purification.

reactant | 4-iodophenol | 91 mmol, 20 g | IC1=CC=C(C=C1)O | C6H5IO
reactant | magnesium dichloride | 264 mmol, 25.1 g | [Cl-].[Cl-].[Mg+2]
reactant | paraformaldehyde | C=O | CH2O
reactant | HCl | 500 mL | Cl | ClH
solvent | acetonitrile | 455 mL | C(C)#N | C2H3N
solvent | triethylamine | C(C)N(CC)CC | C6H15N
product | 2-hydroxy-5-iodobenzaldehyde | 15 g, 66% | OC1=C(C=O)C=C(C=C1)I | C7H5IO2
